US04954502
To a solution of N-tosylhydroxy-L-proline methyl ester (62.20 g) in THF (600 mL) at 0° C. for 1 h and allowed to stand at 23° C. for 18 h. The reaction mixture was cooled to -20° C., made neutral with 6N HCl, and concentrated under reduced pressure. The residue was treated with water (550 mL) and extracted with EtOAc (4×300 mL). The combined organic extracts were washed with H2O, dried over MgSO4, filtered, and concentrated under reduced pressure to give N-tosylhydroxy-L-prolinol as a white solid (50.56 g, 88.8%) which was used in the next step without further purification.

reactant | N-tosylhydroxy-L-proline methyl ester | 62.20 g | COC([C@]1(N(CCC1)S(=O)(=O)C1=CC=C(C)C=C1)O)=O | C13H17NO5S
reactant | HCl | 6N | Cl | ClH
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | N-tosylhydroxy-L-prolinol | 50.56 g, 88.8% | S(=O)(=O)(C1=CC=C(C)C=C1)N1[C@](CO)(CCC1)O | C12H17NO4S
